US03936491
hydroxyadamantane were dissolved in 30 mls of HCOOH 98-100 %, and this solution was added dropwise, while stirring vigorously, to 1.5 1. of H2SO4 96% cooled to 5°C. Stirring was then continued at the same temperature for 90 minutes and the mixture was finally poured out on ice. NaOH was added to the mixture until it has a pH of approximately 1 and the formed precipitate was extracted with diethyl ether. The extract was dried over Na2SO4 and the solvent was then evaporated. The cruse 2-adamantyl carboxylic acid was thus obtained, which was purified by two crystallizations from 70% ethanol. The purified acid had a melting point of 142-144°C.

reactant | hydroxyadamantane | OC12CC3CC(CC(C1)C3)C2 | C10H16O
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | NaOH | [OH-].[Na+]
reactant | HCOOH | 30 mls | C(=O)O | CH2O2
product | 2-adamantyl carboxylic acid | C12C(C3CC(CC(C1)C3)C2)C(=O)O | C11H16O2
